US08877922B2
A solution of pyridin-4-ylmethanamine (505 uL, 5 mmol) and p-nitrophenyl chloroformate (1.0 g, 5 mmol) in dichloromethane (20 mL) was stirred at room temperature for 5 h. Upon completion, the product was collected by vacuum filtration, washed with dichloromethane and purified by preparative HPLC (10-90% acetonitrile in water) to provide 4-nitrophenyl pyridin-4-ylmethylcarbamate as a white solid. MS=274 (MH+).

reactant | pyridin-4-ylmethanamine | 5 mmol, 505 uL | N1=CC=C(C=C1)CN | C6H8N2
reactant | p-nitrophenyl chloroformate | 5 mmol, 1.0 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-nitrophenyl pyridin-4-ylmethylcarbamate | N1=CC=C(C=C1)CNC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H11N3O4
